US05808062
6-(2,3-Dihydro-1,4-benzodioxin-6-yl)-4-hydroxy-3-[(phenylmethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 1,4-benzodioxin-6-yl methyl ketone (2.5 g, 14.25 mmol), lithium bis(trimethylsilylamide (2.35 g, 14.25 mmol), chlorotrimethylsilane (2.47 g, 14.25 mmol) and diethyl ester of [(phenylmethyl)thio]propanedioic acid (1.00 g, 3.55 mmol). m.p. 192°-193° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.99 (s, 2 H), 4.17 (m, 4 H), 6.8 (s, 1 H), 7.0 (d, 1 H), 7.2 (m, 1 H), 2.28 (m, 7 H); IR (KBr) 3435, 2924, 1649, 1624, 1508, 1288, 1066, 698 cm-1 ; MS (CI): m/e 369 (M+H,), 277 (12), 233 (12), 163 (9), 107 (10), 91 (76); Analysis calc'd for C20H16O5S1 : C, 65.21; H, 4.38; found: C, 64.80; H, 4.17.

reactant | 1,4-benzodioxin-6-yl methyl ketone | 14.25 mmol, 2.5 g | CC(=O)C1=CC2=C(OC=CO2)C=C1 | C10H8O3
reactant | lithium | [Li] | Li
reactant | trimethylsilylamide | 14.25 mmol, 2.35 g | C[Si](C)(C)[NH-]
reactant | chlorotrimethylsilane | 14.25 mmol, 2.47 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(phenylmethyl)thio]propanedioic acid | 3.55 mmol, 1.00 g | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
reactant | KBr | [K+].[Br-]
product | 6-(2,3-Dihydro-1,4-benzodioxin-6-yl)-4-hydroxy-3-[(phenylmethyl)thio]-2H-pyran-2-one | O1CCOC2=C1C=CC(=C2)C2=CC(=C(C(O2)=O)SCC2=CC=CC=C2)O | C20H16O5S
